US07514460B2
N-[2-(6,7-Dimethoxyquinazolin-4-ylamino)-benzothiazol-6-yl]-3-trifluoromethoxybenzamide was prepared from 3-trifluoromethoxybenzoyl chloride (19 μL, 0.113 mmol) and N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine (40 mg, 0.113 mmol) according to GP 2 (yellowish solid, 48 mg, 88 μmol, 78%). LC/ESI-MS: m/z=542 [M+H]+; m/z=540 [M−H]−; Rt=3.72 min.

reactant | 3-trifluoromethoxybenzoyl chloride | 0.113 mmol, 19 μL | FC(OC=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O2
reactant | N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine | 0.113 mmol, 40 mg | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)N | C17H15N5O2S
product | N-[2-(6,7-Dimethoxyquinazolin-4-ylamino)-benzothiazol-6-yl]-3-trifluoromethoxybenzamide | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)NC(C2=CC(=CC=C2)OC(F)(F)F)=O | C25H18F3N5O4S
